US04054419
Oxidation by Air of Leuco Indigo to Indigo Blue
A solution prepared by dissolving 0.2 grams of indigo carmine (a sulfonated indigo, C.I. 1180) and one gram of sodium carbonate in 500 grams of water was titrated with sodium hydrosulfite (Na2S2O4) to the disappearance of the blue color. Portions of this solution of 150 grams each were placed in matched 250 ml glass beakers. On one portion was floated 5 grams of polyethylene beads. On another portion was floated 5 grams of activated carbon wetproofed with 2% of PTFE. On a third portion was floated 5 grams of activated carbon wetproofed with 10% of PTFE. After a few minutes, the solution under the carbon wetproofed with 2PTFE showed streamers of blue color from the top extending nearly to the bottom of the beaker, while at the same time the solution under the carbon wetproofed with 10% PTFE showed fewer streamers of blue color from the top, not reaching to the bottom, and the solution under the polyethylene beads showed only a thin blue film at the interface. After about 30 minutes, both of the solutions under floating carbon were deep blue, while the solution under the polyethylene beads was not significantly bluer than earlier.

reactant | indigo carmine | 0.2 grams | C1=CC2=C(C=C1S(=O)(=O)[O-])C(=O)/C(=C\3/C(=O)C=4C=C(C=CC4N3)S(=O)(=O)[O-])/N2.[Na+].[Na+]
reactant | sodium carbonate | one gram | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | polyethylene | 5 grams | C(C[*:2])[*:1]
solvent | water | 500 grams | O | H2O
product | Leuco Indigo | C1=CC=C2C(=C1)C(=C(N2)C3=C(C4=CC=CC=C4N3)O)O | C16H12N2O2
